US05051423
1-[[[4-(1H-Imidazol-1-yl)phenyl]methyl]amino]-3-(2-methylphenoxy)-2-propanol dihydrochloride
Dissolve 1.74 g (10.04 mmol) of 4-(1H-imidazol-1-yl)-benzenemethanamine in 20 mL of dry DMSO under nitrogen. Add 2.44 mL (11.55 mmol) of hexamethyldisilazane and stir at room temperature for 30 min. After this time, add a solution of 1.73 g (10.54 mmol) of 1,2-epoxy-3-(2-methylphenoxy)propane in 10 mL of DMSO and heat in an oil bath at 60° C. for 42 h. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile: ammonia (aq), 90:10). At the completion of the reaction, add 6 N hydrochloric acid to pH=1 and then add 4 N sodium hydroxide to pH=12. Dilute this basic mixturewith 20 mL of water and extract with 3×75 mL of methylene chloride. Remove the solvent on the rotary evaporator. Purify this residue by flash chromatography using flash silica gel (Baker) and eluting with a solution of acetonitrile: ammonia hydroxide 98:2. Combine pure fractions and removethe solvent on the rotary evaporator. Dissolve this residue in 50 mL of acetonitrile and remove the solvent on the rotary evaporator. Dissolve this residue in 10 mL of methanol and bubble hydrogen chloride through thesolution until pH=1 is reached. Remove the solvent on the rotary evaporatorand recrystallize the solid from 20 mL of isopropanol to provide the title compound.

reactant | 4-(1H-imidazol-1-yl)-benzenemethanamine | 10.04 mmol, 1.74 g | N1(C=NC=C1)C1=CC=C(C=C1)CN | C10H11N3
reactant | hexamethyldisilazane | 11.55 mmol, 2.44 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1,2-epoxy-3-(2-methylphenoxy)propane | 10.54 mmol, 1.73 g | O1CC1COC1=C(C=CC=C1)C | C10H12O2
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 1-[[[4-(1H-Imidazol-1-yl)phenyl]methyl]amino]-3-(2-methylphenoxy)-2-propanol dihydrochloride | Cl.Cl.N1(C=NC=C1)C1=CC=C(C=C1)CNCC(COC1=C(C=CC=C1)C)O | InChI=1S/C20H23N3O2.2ClH/c1-16-4-2-3-5-20(16)25-14-19(24)13-22-12-17-6-8-18(9-7-17)23-11-10-21-15-23;;/h2-11,15,19,22,24H,12-14H2,1H3;2*1H
